US06916819B2
Trimethylaluminum (0.54 mL of 2.0M in toluene, 1.09mmol) is added dropwise to a solution of 3-Amino-4-propylaminobenzonitrile (152 mg; 0.87 mmol) in dichloromethane (10 mL), and the mixture was stirred at room temperature for 1 hr. A solution of [2-(2-Fluoropyridin-6-yl)-imidazol-1-yl]acetic acid methyl ester (102 mg; 0.43 mmol) in dichloromethane (5 mL) is added all at once, and the mixture heated at reflux for 16 hr. The brown solution is cooled to room temperature and treated dropwise with methanol (1 mL) then water (2 mL) and stirred at room temperature for 15 min. Anhydrous sodium sulfate is added until the gel becomes solid, the mixture is diluted with dichloromethane (100 mL) and filtered through celite. The filtrate is concentrated to give a brown oil which is dissolved in acetic acid (7 mL) and heated at 100° for 72 hr. The mixture is cooled to room temperature and concentrated. The residue is dissolved in ethyl acetate (15 mL), washed with saturated aqueous NaHCO3 (1×50 mL), then brine (1×50 mL), dried (MgSO4), and concentrated, and the residue purified by preparative thin layer chromatography to give 1-n-Propyl-2-{[2-(2-fluoropyrid-6-yl)-1H-imidazol-1-yl]methyl}-5-cyano-1H-benzimidazole as a light brown semi-solid (57 mg).

reactant | Trimethylaluminum | 1.09mmol, 2.0M, 0.54 mL | C[Al](C)C
reactant | 3-Amino-4-propylaminobenzonitrile | 0.87 mmol, 152 mg | NC=1C=C(C#N)C=CC1NCCC | C10H13N3
reactant | [2-(2-Fluoropyridin-6-yl)-imidazol-1-yl]acetic acid methyl ester | 0.43 mmol, 102 mg | COC(CN1C(=NC=C1)C1=CC=CC(=N1)F)=O | C11H10FN3O2
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | acetic acid | 7 mL | C(C)(=O)O | C2H4O2
solvent | water | 2 mL | O | H2O
solvent | methanol | 1 mL | CO | CH4O
product | 1-n-Propyl-2-{[2-(2-fluoropyrid-6-yl)-1H-imidazol-1-yl]methyl}-5-cyano-1H-benzimidazole | 57 mg | C(CC)N1C(=NC2=C1C=CC(=C2)C#N)CN2C(=NC=C2)C2=CC=CC(=N2)F | C20H17FN6
